US07060827B2
In like manner to N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 4-ethoxycarbonylamino-3-hydroxyaniline were reacted to yield N2,N4-bis(4-ethoxycarbonylamino-3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.86 (d, 1H J=4 Hz), 7.67 (m, 2H), 7.20 (dd, 1H, J=8 Hz, J=4.1 Hz), 7.13 (d, 1H), 6.90 (m, 2H), 4.2(m, 4H), 1.32 (m, 6H); LCMS: ret. time: 20.92 min.; purity: 98%; MS (m/e): 487 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-ethoxycarbonylamino-3-hydroxyaniline | C(C)OC(=O)NC1=C(C=C(N)C=C1)O | C9H12N2O3
product | N2,N4-bis(4-ethoxycarbonylamino-3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C)OC(=O)NC1=C(C=C(C=C1)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)NC(=O)OCC)O)F)O | C22H23FN6O6
